US06107036
4-Adamantylidene-2-(4'-hydroxyphenyl)-4-H-1,3-benzoxazine
A solution of 6 mmol 4-adamantylidene-2-(4'-methoxyphenyl)-4H-1,3-benzoxazine in 20 ml absolute methylene chloride is added dropwise to a solution of 12 mmol boron triiodide while stirring at -25° C. with the exclusion of air and water. The mixture is heated to room temperature within one hour and stirred for a further 4 hours. After admixing with 50 ml water the organic phase is separated and dried over sodium sulfate. The solvent is removed by distillation. The oily residue is separated by column chromatography (silica gel: ethyl acetate/petroleum ether 1:3).

reactant | 4-adamantylidene-2-(4'-methoxyphenyl)-4H-1,3-benzoxazine | 6 mmol | C12C(C3CC(CC(C1)C3)C2)=C2N=C(OC3=C2C=CC=C3)C3=CC=C(C=C3)OC | C25H25NO2
reactant | boron triiodide | 12 mmol | B(I)(I)I | BI3
reactant | water | O | H2O
reactant | water | 50 ml | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-Adamantylidene-2-(4'-hydroxyphenyl)-4-H-1,3-benzoxazine | C12C(C3CC(CC(C1)C3)C2)=C2N=C(OC3=C2C=CC=C3)C3=CC=C(C=C3)O | C24H23NO2
